US09168259B2
To a solution of 17.4 g (84.4 mmol) of 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid in THF (340 ml) were added 10.6 ml (92.9 mmol) 3-fluorobenzylamine, 32.0 g (84.4 mmol) HATU and 35.0 ml (253.3 mmol) NEt3. The RM was then heated at 70° C. for 16. After dilution with EtOAc (350 ml) the mixture was washed with a 4M aq. NH4Cl sol., a 1M aq. NaHCO3 sol. and brine. The organic layer was dried over MgSO4 and concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 3:2) provided 19.5 g (62.3 mmol, 74%) 2,6-dichloro-N-(3-fluorobenzyl)-4-methyl-pyridine-3-carboxylic acid amide.

reactant | 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid | 84.4 mmol, 17.4 g | ClC1=NC(=CC(=C1C(=O)O)C)Cl | C7H5Cl2NO2
reactant | 3-fluorobenzylamine | 92.9 mmol, 10.6 ml | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | HATU | 84.4 mmol, 32.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NEt3 | 253.3 mmol, 35.0 ml | CCN(CC)CC | C6H15N
solvent | THF | 340 ml | C1CCOC1 | C4H8O
product | 2,6-dichloro-N-(3-fluorobenzyl)-4-methyl-pyridine-3-carboxylic acid amide | 62.3 mmol, 19.5 g, 74% | ClC1=NC(=CC(=C1C(=O)NCC1=CC(=CC=C1)F)C)Cl | C14H11Cl2FN2O
